US08895558B2
N-(3-(4-(3-chlorophenyl)piperazin-1-yl)propyl)-1,2-dimethyl-5-phenyl-1H-pyrrole-3-carboxamide
To the mixture of 1,2-Dimethyl-5-phenyl-1H-pyrrole-3-carboxylic acid (100 mg, 0.46 mmol) and 3-(4-(3-chlorophenyl) piperazin-1-yl)propan-1-amine dihydrochloride (152 mg, 0.46 mmol) in methylene chloride (5 ml) was added EDCI (178 mg, 0.92 mmol), HOBT (130 mg, 0.9 mmol) and NMM (0.3 ml, 1.8 mmol) continuously. After stirring for 1 day at room temperature, MeOH was added to the resulting solution, and filter off. After evaporation under reduced pressure, the residue was purified by reverse phase preparative HPLC to provided title compound (149 mg, 71%) as white solid.

reactant | 1,2-Dimethyl-5-phenyl-1H-pyrrole-3-carboxylic acid | 0.46 mmol, 100 mg | CN1C(=C(C=C1C1=CC=CC=C1)C(=O)O)C | C13H13NO2
reactant | 3-(4-(3-chlorophenyl) piperazin-1-yl)propan-1-amine dihydrochloride | 0.46 mmol, 152 mg | Cl.Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCN
reactant | EDCI | 0.92 mmol, 178 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.9 mmol, 130 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 1.8 mmol, 0.3 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-(3-(4-(3-chlorophenyl)piperazin-1-yl)propyl)-1,2-dimethyl-5-phenyl-1H-pyrrole-3-carboxamide | 149 mg, 71% | ClC=1C=C(C=CC1)N1CCN(CC1)CCCNC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)C)C | C26H31ClN4O
